US07420066B2
Preparation of 3-[2-(2,4-dichlorobenzoyl)-3-methyl-1-benzofuran-6-yl]-N-(2-methoxyethyl)benzamide
To a solution of 3-[2-(2,4-dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-benzoic acid (40 mg, 0.09 mmol) in dichloromethane (2 mL) was added 2-methoxyethylamine (0.02 mL, 0.19 mmol), EDCl (20 mg, 0.1 mmol), DMAP (1 mg, 0.01 mmol), and N,N-diisopropylethylamine (0.02 mL, 0.1 mmol). The reaction mixture was stirred at rt overnight, then concentrated in vacuo and purified by prep-HPLC to afford the desired product (11 mg, 25%). 1H-NMR (CDCl3) δ 8.05 (t, J=1.8 Hz, 1H), 7.77-7.75 (m, 3H), 7.69 (m, 1H), 7.60 (dd, J=8.3, 1.0 Hz, 1H), 7.51 (m, 2H), 7.47 (m,1H), 7.40 (ddd, J=8.2, 1.9, 0.5 Hz, 1H), 6.62 (t, J=4.5 Hz, 1H), 3.70 (m, 2H), 3.60 (m, 2H), 3.40 (s, 3H), 2.62 (s, 3H).

reactant | 3-[2-(2,4-dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-benzoic acid | 0.09 mmol, 40 mg | ClC1=C(C(=O)C=2OC3=C(C2C)C=CC(=C3)C=3C=C(C(=O)O)C=CC3)C=CC(=C1)Cl | C23H14Cl2O4
reactant | 2-methoxyethylamine | 0.19 mmol, 0.02 mL | COCCN | C3H9NO
reactant | EDCl | 0.1 mmol, 20 mg | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 0.1 mmol, 0.02 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.01 mmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-[2-(2,4-dichlorobenzoyl)-3-methyl-1-benzofuran-6-yl]-N-(2-methoxyethyl)benzamide | 11 mg, 25% | ClC1=C(C(=O)C=2OC3=C(C2C)C=CC(=C3)C=3C=C(C(=O)NCCOC)C=CC3)C=CC(=C1)Cl | C26H21Cl2NO4
